US08084643B2
1-[3-[2-(2,2-Dichloro-acetylamino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propoxycarbonyl]-propyl]-3-methyl-3H-imidazol-1-ium bromide
A solution of 4-bromo-butyric acid 2-(2,2-dichloro-acetylamino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propyl ester (1.8 g, 1 equivalent) and 1-methylimidazol (0.56 mL, 2 equivalents) was stirred in tetrahydrofuran (6 mL) at room temperature overnight. The solution was diluted with ether and the precipitates were collected by filtration and stirred in a mixture of ethyl acetate and hexanes (1:1) at room temperature for 24 hours. The purified title methylimidazolium bromide was collected by filtration and dried under reduced pressure at 50° C. for 7 hours to give a pale powder (1.2 g, 56% yield); H1-NMR (CDCl3/CD3OD). δ=2.2 ppm (m, 2H), 2.6 ppm (m, 2H), 3.0 ppm (s, 3H), 3.9 ppm (s, 3H), 4.2-4.5 ppm (m, 5H), 6.0 ppm (d, 1H), 6.4 ppm (s, 1H), 7.2 ppm (d, 1H), 7.4 ppm (s, 1H), 7.6 (d, 2H), 7.8 ppm (d, 2H), 9.4 ppm (s, 1H).

reactant | 4-bromo-butyric acid 2-(2,2-dichloro-acetylamino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propyl ester | 1.8 g, 1 equivalent | ClC(C(=O)NC(C(C1=CC=C(C=C1)S(=O)(=O)C)OC(CCCBr)=O)CF)Cl | C16H19BrCl2FNO5S
reactant | 1-methylimidazol | 0.56 mL, 2 equivalents | CN1C=NC=C1 | C4H6N2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[3-[2-(2,2-Dichloro-acetylamino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propoxycarbonyl]-propyl]-3-methyl-3H-imidazol-1-ium bromide | 1.2 g, 56% yield | [Br-].ClC(C(=O)NC(C(OC(=O)CCC[N+]1=CN(C=C1)C)C1=CC=C(C=C1)S(=O)(=O)C)CF)Cl | InChI=1S/C20H24Cl2FN3O5S.BrH/c1-25-10-11-26(13-25)9-3-4-17(27)31-18(16(12-23)24-20(28)19(21)22)14-5-7-15(8-6-14)32(2,29)30;/h5-8,10-11,13,16,18-19H,3-4,9,12H2,1-2H3;1H
